US08541429B2
Step 4. (1S)-2-morpholin-4-yl-1-phenylethanamine dihydrochloride
A solution of 11.58 g (0.0378 mol) of tert-butyl (1S)-2-morpholin-4-yl-1-phenylethylcarbamate in 100 mL of dichloromethane was treated with 120 mL of HCl 4M in dioxane and stirred for 18 hours. The mixture was diluted with diethylether and the product filtered (9.48 g, 90% yield).

reactant | tert-butyl (1S)-2-morpholin-4-yl-1-phenylethylcarbamate | 0.0378 mol, 11.58 g | N1(CCOCC1)C[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C17H26N2O3
reactant | HCl | 4M, 120 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethylether | C(C)OCC | C4H10O
product | (1S)-2-morpholin-4-yl-1-phenylethanamine dihydrochloride | 90% yield | Cl.Cl.N1(CCOCC1)C[C@@H](N)C1=CC=CC=C1 | InChI=1S/C12H18N2O.2ClH/c13-12(11-4-2-1-3-5-11)10-14-6-8-15-9-7-14;;/h1-5,12H,6-10,13H2;2*1H/t12-;;/m1../s1
